US05436264
Proceeding as an Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(2-methylsulfonyl-1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(2-methylsulfonyl -1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride.

reactant | 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(C)C | C13H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(2-methylsulfonyl-1H-indol-3-yl)-1,1-dimethylethyl]amine | CS(=O)(=O)C=1NC2=CC=CC=C2C1CC(C)(C)N | C13H18N2O2S
product | [2-(2-methylsulfonyl -1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.CS(=O)(=O)C=1NC2=CC=CC=C2C1CC(C)(C)NCCOC1=C(C=CC=C1)OCC(C)C | InChI=1S/C25H34N2O4S.ClH/c1-18(2)17-31-23-13-9-8-12-22(23)30-15-14-26-25(3,4)16-20-19-10-6-7-11-21(19)27-24(20)32(5,28)29;/h6-13,18,26-27H,14-17H2,1-5H3;1H
